US07312225B2
10d) Production of 1-(3-Amino-phenyl)-3-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-urea
A solution of 1.71 g (3.98 mmol) of 1-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-(3-nitro-phenyl)-urea in 50 ml of THF is mixed at room temperature with 30 ml of a 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid. After 24 hours, another 5 ml of the 15% solution of Ti(III)Cl in approximately 10% hydrochloric acid is added. After another 6 hours, the batch is made basic with 2N NaOH solution and extracted from ethyl acetate. The combined organic phases are filtered through a Whatman filter and concentrated by evaporation. The residue that is obtained is purified by chromatography (DCM/EtOH 9:1). 850 mg (2.13 mmol, corresponding to 54% of theory) of the product is obtained.

reactant | 1-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-3-(3-nitro-phenyl)-urea | 3.98 mmol, 1.71 g | BrC=1C(=NC(=NC1)Cl)NCCCNC(=O)NC1=CC(=CC=C1)[N+](=O)[O-] | C14H14BrClN6O3
reactant | NaOH | 2N | [OH-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | hydrochloric acid | Cl | ClH
product | 1-(3-Amino-phenyl)-3-[3-(5-bromo-2-chloro-pyrimidin-4-ylamino)-propyl]-urea | NC=1C=C(C=CC1)NC(=O)NCCCNC1=NC(=NC=C1Br)Cl | C14H16BrClN6O
